US04898941
Into 500 ml of toluene was dissolved 5 g of 2,2-bis(4-pyrrolidinophenyl)propionic acid. Thereto was added 3.7 g of lead dioxide and the mixture was reacted at room temperature with stirring for one hour. The lead compound was removed by filtration and the toluene layer was washed with 100 ml of 5% aqueous solution of sodium hydroxide. Toluene was removed by distillation at a reduced pressure. The residue was recrystallized from ethanol to obtain 3.3 g (yield 76%) of 1,1-bis(4-pyrrolidinophenyl)ethylene, having a melting point of 220°~223° C.

reactant | 2,2-bis(4-pyrrolidinophenyl)propionic acid | 5 g | N1(CCCC1)C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N1CCCC1 | C23H28N2O2
reactant | lead dioxide | 3.7 g | [Pb](=O)=O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-bis(4-pyrrolidinophenyl)ethylene | 3.3 g, yield 76% | N1(CCCC1)C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N1CCCC1 | C22H26N2
